Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Elevated LFTs
 
Major Surgical or Invasive Procedure:
cesarean section

 
History of Present Illness:
___ y/o G1 at ___ with IVF di-di twins presents to triage from 
the office with elevated BP's and 4+ proteinuria. She reports 
not feeling well with generalized myalgias, fever, and diarrhea 
x 1 week. She was seen the her PCP ___ ___ and was noted to have 
increased LFT's. Today she was seen by her OB and was noted to 
have a BP of 150/90. Her booking BpPwas 120/74. She does have a 
HA and epigastric discomfort presently but no visual changes or 
URQ pain. 

 
Past Medical History:
PNC
*) Dating ___ ___ by IVF
*) Labs: B pos/Ab neg/RPR-NR/HBsAg neg/GLT 110
*) U/S: FFS normal x 2 per pt, placenta anterior and posterior.
*) Genetics: low risk screening
*) Issues: di-di twins

OBHx G1
GYNHx infertility; denies abn pap/STI
PMH benign
PSH Tonsils/finger; 3 molars
 
Social History:
No T/E/D.
 
Physical Exam:
On admission
O: BP 142/96-> 168/101   HR 68   RR 20  T 98.1 
Heart RRR 
Lungs CTA B
ABd gravid, NT
Ext 3+ edema up to knees
Fetal testing  reassuring: EFW A 1554 g, 45 %, BPP ___
                           EFW B 1262 g, 22 %, BPP ___
                           membranes seen. 
                           Fetal positions transverse x 2.

 
Pertinent Results:
___ 06:26PM BLOOD WBC-8.7 RBC-3.85* Hgb-11.8* Hct-33.9* 
MCV-88 MCH-30.7 MCHC-34.8 RDW-13.4 Plt ___
___ 11:54PM BLOOD WBC-10.7 RBC-3.69* Hgb-10.8* Hct-32.4* 
MCV-88 MCH-29.4 MCHC-33.4 RDW-13.4 Plt ___
___ 03:10PM BLOOD WBC-8.8 RBC-3.43* Hgb-10.3* Hct-30.1* 
MCV-88 MCH-30.1 MCHC-34.4 RDW-13.5 Plt ___
___ 08:20AM BLOOD WBC-8.1 RBC-3.40* Hgb-10.4* Hct-30.0* 
MCV-88 MCH-30.6 MCHC-34.7 RDW-13.7 Plt ___
___ 10:19PM BLOOD WBC-10.2 RBC-3.11* Hgb-9.7* Hct-28.1* 
MCV-90 MCH-31.1 MCHC-34.4 RDW-14.7 Plt ___
___ 07:44AM BLOOD WBC-10.2 RBC-3.09* Hgb-9.5* Hct-26.8* 
MCV-87 MCH-30.8 MCHC-35.6* RDW-15.6* Plt ___
___ 02:22PM BLOOD WBC-9.1 RBC-3.11* Hgb-9.3* Hct-27.7* 
MCV-89 MCH-29.9 MCHC-33.6 RDW-13.5 Plt ___
___ 06:26PM BLOOD ___ PTT-28.7 ___
___ 06:26PM BLOOD ___
___ 06:26PM BLOOD UreaN-6 Creat-0.6
___ 11:54PM BLOOD Creat-0.7
___ 03:10PM BLOOD Creat-0.6
___ 08:20AM BLOOD Creat-0.6
___ 10:19PM BLOOD UreaN-9 Creat-0.6
___ 07:44AM BLOOD Creat-0.6
___ 02:22PM BLOOD Creat-0.6
___ 06:26PM BLOOD ALT-98* AST-66* Amylase-170* TotBili-0.3
___ 11:54PM BLOOD ALT-92* AST-59*
___ 03:10PM BLOOD ALT-72* AST-42*
___ 08:20AM BLOOD ALT-138* AST-118* LD(LDH)-243
___ 10:19PM BLOOD ALT-167* AST-143*
___ 07:44AM BLOOD ALT-151* AST-119*
___ 02:22PM BLOOD ALT-109* AST-51*
___ 06:26PM BLOOD UricAcd-4.6
___ 11:54PM BLOOD UricAcd-4.9
___ 03:10PM BLOOD UricAcd-5.1
___ 08:20AM BLOOD UricAcd-5.0
___ 10:19PM BLOOD Mg-3.7*
___ 07:44AM BLOOD UricAcd-5.0
___ 02:22PM BLOOD UricAcd-5.5
 
Brief Hospital Course:
Ms. ___ was admitted to L+D for observation. Her blood pressures 
were initially elevated and she was given a single dose of PO 
labetalol 300 mg. A 24-hour urine collection was begun and 
returned with 1800 mg proteinuria, ruling her in for 
preeclampsia. Maternal Fetal Medicine was also consulted and 
recommended close inpatient monitoring of her labs and blood 
pressures. 

Her LFTs on admission were ALT 72, AST 42. A RUQ U/S was 
performed and was significant only for a small hemangioma in the 
liver. Viral titers were drawn, with negative CMV, EBV, and 
hepatitis. Her LFTs were repeated on ___, at which time they 
were 138 and 118 respectively. Given these findings as well as 
continued hypertension, the decision was made to proceed with 
delivery. She was kept NPO and transferred up to L+D that 
evening, where she underwent an uncomplicated LTCS. She 
tolerated this well and her twins were both taken to the NICU. 
She remained on L+D for magnesium and was then transferred to 
the postpartum floor. She received 24hrs of magnesium 
post-partum without issue. Her post-partum course was 
complicated by elevated blood pressures. She was treated 
initially with Labetalol. Nifedipine was added and her labetalol 
dose was increased on post-op day #4 with good effect. The 
patient's labs improved and clinically she was asymptomatic. She 
was discharged home in stable condition on post-op day #5 with a 
prescription for a blood pressure cuff in addition to her 
medications. She will follow up in 2 and 6wks.
 
Medications on Admission:
PNV
 
Discharge Medications:
1. breast pump  Sig: One (1)   as needed: 
poor latch. premature twins.
Disp:*1 1* Refills:*0*
2. Blood Pressure Cuff     Misc Sig: One (1)  Miscellaneous 
three times a day: use as directed.
Disp:*1 1* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  
4. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*50 Tablet(s)* Refills:*0*
5. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for Pain.  
6. nifedipine 10 mg Capsule Sig: One (1) Capsule PO Q8H (every 8 
hours) for 30 days.
Disp:*90 Capsule(s)* Refills:*1*
7. labetalol 100 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day) for 30 days.
Disp:*180 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
severe gestation hypertension
cesarean section delivery
twin gestation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per isntruction sheets
call on call M.D. for Blood pressure check ___ in triage
 
Followup Instructions:
___